US07855214B2
(2-Chloro-1,2,5,6,7,8-hexahydro-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine
2,4-Dichloro-1,2,5,6,7,8-hexahydro-quinazoline (1 g, 4.93 mmol) and 3-amino-5-cyclopropylpyrazole (0.606 g, 4.93 mmol) in ethanol (8 ml) was treated with triethylamine (1.24 ml, 8.87 mmol) and the mixture heated at 120° C. for 3 days, cooled and filtered to give (0.72 g, 51%) as a colourless solid.

reactant | 2,4-Dichloro-1,2,5,6,7,8-hexahydro-quinazoline | 4.93 mmol, 1 g | ClC1NC=2CCCCC2C(=N1)Cl | C8H10Cl2N2
reactant | 3-amino-5-cyclopropylpyrazole | 4.93 mmol, 0.606 g | NC1=NNC(=C1)C1CC1 | C6H9N3
reactant | triethylamine | 8.87 mmol, 1.24 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | (2-Chloro-1,2,5,6,7,8-hexahydro-quinazolin-4-yl)-(5-cyclopropyl-2H-pyrazol-3-yl)-amine | ClC1NC=2CCCCC2C(=N1)NC=1NN=C(C1)C1CC1 | C14H18ClN5
